US04105680
1-Amino-4-hydroxyanthraquinone-2-carboxylic acid (31.1 grams, 0.11 mole) was dissolved in 2000 ml. of water and 50 ml. of 10 M sodium hydroxide solution. The mixture was heated on a steam bath to 90°-100° C., and 40 g (0.23 mole) sodium hydro ulfite was added. Heating was continued with stirring for 2 hours, after which the mixture was cooled to room temperature. The resulting solid was collected by filtration and washed with water until the filtrate was neutral. The solid was dried at 80° C. to give 26.2 g (75% yield) of 1-amino-4-hydroxyanthraquinone. The Thin Layer Chromatogram of the crude product showed the presence of a small amount of impurity.

reactant | 1-Amino-4-hydroxyanthraquinone-2-carboxylic acid | 0.11 mole, 31.1 grams | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)C(=O)O | C15H9NO5
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
reactant | sodium | 0.23 mole, 40 g | [Na] | Na
solvent | water | O | H2O
product | 1-amino-4-hydroxyanthraquinone | 26.2 g, 75% yield | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H9NO3
